US05221677
The 1,2-dihydro-6-iodo-1-ethylquinolin-2-one used as a starting material was obtained using a similar procedure to that described in the portion of Example 1 which is concerned with the preparation of the starting material 1,2-dihydro-6-iodo-1-methylquinolin-2-one, except that ethyl iodide was used in place in methyl iodide. There were thus obtained in turn 1,2-dihydro-1-ethylquinolin-2-one, m.p. 52°-54° C., and the required starting material as an oil.

reactant | 1,2-dihydro-6-iodo-1-ethylquinolin-2-one | IC=1C=C2C=CC(N(C2=CC1)CC)=O | C11H10INO
reactant | 1,2-dihydro-6-iodo-1-methylquinolin-2-one | IC=1C=C2C=CC(N(C2=CC1)C)=O | C10H8INO
reactant | ethyl iodide | C(C)I | C2H5I
solvent | methyl iodide | CI | CH3I
product | 1,2-dihydro-1-ethylquinolin-2-one | C(C)N1C(C=CC2=CC=CC=C12)=O | C11H11NO
